US07846954B2
(R)-3-Hydroxy-1-phenylpyrrolidin-2-one
To a solution of alcohol (4.64 mmol) and DIEA (11.59 mmol) in DCM (10 mL) at −20° C. was added triflic anhydride (5.56 mmol) and the reaction mixture was stirred at this temperature for 20 min. A solution of pyrrolidine (3.86 mmol) in DCM (6 mL) was added and the reaction mixture was stirred at −20° C. for 1 hour. The reaction mixture was poured into water and extracted with EtOAc (3×). The combined organic extracts were washed with water (2×), brine, dried (Na2SO4) and evaporated to dryness. Purification by silica gel chromatography afforded the desired product.

reactant | DIEA | 11.59 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | triflic anhydride | 5.56 mmol | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | pyrrolidine | 3.86 mmol | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-Hydroxy-1-phenylpyrrolidin-2-one | O[C@H]1C(N(CC1)C1=CC=CC=C1)=O | C10H11NO2
